US04001418
To a stirred solution of 1'-benzylthioxanthene-9-spiro-4'-piperidine (2 g.) in methylene chloride (25 ml.) is added dropwise a solution of phenyl chloroformate (0.88 g.) in methylene chloride (15 ml.) at room temperature during 10 minutes. Stirring is continued for 18 hours, the methylene chloride is shaken with 1.ON sodium hydroxide solution, washed with water and dried (Na2SO4). The solution is filtered, the solvent evaporated and the residual oily product is crystallised from ethanol to give 1'-phenoxycarbonyl-thioxanthene-9-spiro-4'-piperidine, m.p. 149°-151° C.

reactant | 1'-benzylthioxanthene-9-spiro-4'-piperidine | 2 g | C(C1=CC=CC=C1)N1CCC2(CC1)C1=CC=CC=C1SC=1C=CC=CC12 | C24H23NS
reactant | phenyl chloroformate | 0.88 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 1'-phenoxycarbonyl-thioxanthene-9-spiro-4'-piperidine | O(C1=CC=CC=C1)C(=O)N1CCC2(CC1)C1=CC=CC=C1SC=1C=CC=CC12 | C24H21NO2S
